US04151357
(E,Z,E) and (E,E,E)-N-benzyl-7-hydroxymethyl-3,11,15-trimethyl-2,6,10,14-hexadecatetraenamide
To a solution of 1.0 g of (E,Z,E) and (E,E,E)-7-hydroxymethyl-3,11,15-trimethyl-2,6,10,14-hexadecatetraenoic acid in 10 ml of ethyl acetate were added 0.41 ml of benzylamine, 0.84 ml of diphenylphosphoric acid azide and then 0.5 ml of triethylamine under ice-cooling and the reaction mixture was stirred at room temperature for 5 hours. After completion of the reaction, the reaction mixture was diluted with ethyl ether, washed successively with dilute hydrochloric acid, aqueous sodium hydrogencarbonate and water and dried over anhydrous sodium sulfate. The solvent was distilled off to give an oily substance, which was then purified by a column chromatography using silica gel (25 g) to afford 960 mg of the end product.

reactant | (E,E,E)-7-hydroxymethyl-3,11,15-trimethyl-2,6,10,14-hexadecatetraenoic acid | OC/C(=C/CC/C(=C/C(=O)O)/C)/CC\C=C(\CCC=C(C)C)/C | C20H32O3
reactant | benzylamine | 0.41 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl ether | C(C)OCC | C4H10O
product | (E,E,E)-N-benzyl-7-hydroxymethyl-3,11,15-trimethyl-2,6,10,14-hexadecatetraenamide | 960 mg | C(C1=CC=CC=C1)NC(\C=C(\CC\C=C(/CC\C=C(\CCC=C(C)C)/C)\CO)/C)=O | C27H39NO2
